data/polar.json
{"reaction_name": "Wharton rearrangement", "rsmi": "[CH2:1]1[CH2:9][O:12][CH:11]([H:26])[C:10]1=[O:6].[H:2][N:7]([H:3])[N:8]([H:4])[H:5]>>[CH2:1]([H:26])[C:10]([H:2])([O:6][H:3])[CH:11]=[CH2:9].[H:4][O:12][H:5].[N:7]#[N:8]", "epd": [["Sigma-/Sigma+", [1, 9], [9, 11]], ["Sigma-/Sigma+", [11, 26], [1, 26]], ["Sigma-/Sigma+", [11, 12], [5, 12]], ["Sigma-/Pi+", [5, 8], [7, 8]], ["Sigma-/Sigma+", [3, 7], [3, 6]], ["Pi-/Sigma+", [6, 10], [2, 10]], ["Sigma-/Pi+", [2, 7], [7, 8]], ["Sigma-/Sigma+", [4, 8], [4, 12]], ["Sigma-/Pi+", [9, 12], [9, 11]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[C:2](#[N:12])[C:19]([C:3]#[N:13])=[CH:6][c:20]1[cH:10][cH:16][cH:21][cH:17][cH:11]1.[c:1]1([O-:18])[cH:14][cH:4][c:8]([O:9][CH3:7])[cH:5][cH:15]1>>[c:1]1([O:18][CH:6]([C:19](=[C:2]=[N-:12])[C:3]#[N:13])[c:20]2[cH:10][cH:16][cH:21][cH:17][cH:11]2)[cH:14][cH:4][c:8]([O:9][CH3:7])[cH:5][cH:15]1", "epd": [["LP-/Sigma+", [18], [18, 6]], ["Pi-/Pi+", [6, 19], [19, 2]], ["Pi-/LP+", [2, 12], [12]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:10]1[o:22][n:16][c:11]2[c:14]3[n+:7]([O-:17])[o:2][n:19][c:15]3[c:18]([N+:5]([O-:20])=[O:23])[cH:13][c:25]12.[cH:3]1[cH:6][c:8]2[c:26]([cH:12][cH:27]1)[CH:24]=[CH:4][CH:21]2[Li:9]>>[Li+:9].[O-:1][n+:10]1[o:22][n:16][c:11]2[c:25]1[CH:13]([CH:21]1[CH:4]=[CH:24][c:26]3[c:8]1[cH:6][cH:3][cH:27][cH:12]3)[C:18](=[N+:5]([O-:20])[O-:23])[c:15]1[c:14]-2[n+:7]([O-:17])[o:2][n:19]1", "epd": [["Sigma-/Sigma+", [21, 9], [21, 13]], ["Pi-/Pi+", [13, 18], [18, 5]], ["Pi-/LP+", [5, 23], [23]]]}
{"reaction_name": "Anchimeric-assistance substitution", "rsmi": "[CH2:1]([CH2:3][O:2][CH3:5])[Br:6].[Cl-:4]>>[Br-:6].[CH2:1]([CH2:3][O:2][CH3:5])[Cl:4]", "epd": [["LP-/Sigma+", [4], [1, 4]], ["Sigma-/LP+", [1, 6], [6]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[cH:1]1[cH:10][cH:14][cH:13][cH:4][c:24]1[P:9](=[O:19])([c:25]1[cH:2][cH:11][cH:15][cH:12][cH:3]1)[N:27]=[CH:8][c:20]1[cH:30][cH:22][cH:29][cH:23][cH:31]1.[cH:5]1[cH:16][c:21]([S-:28])[cH:17][cH:6][c:18]1[O:26][CH3:7]>>[cH:1]1[cH:10][cH:14][cH:13][cH:4][c:24]1[P:9]([O-:19])([c:25]1[cH:2][cH:11][cH:15][cH:12][cH:3]1)=[N:27][CH:8]([c:20]1[cH:30][cH:22][cH:29][cH:23][cH:31]1)[S:28][c:21]1[cH:16][cH:5][c:18]([O:26][CH3:7])[cH:6][cH:17]1", "epd": [["LP-/Sigma+", [28], [28, 8]], ["Pi-/Pi+", [8, 27], [27, 9]], ["Pi-/LP+", [9, 19], [19]]]}
{"reaction_name": "Alkynyl halide substitution", "rsmi": "[C:2]([Br:5])#[C:6][CH3:3].[O-:1][CH3:4]>>[Br-:5].[O:1]([C:2]#[C:6][CH3:3])[CH3:4]", "epd": [["LP-/Sigma+", [1], [1, 2]], ["Sigma-/LP+", [2, 5], [5]]]}
{"reaction_name": "Pummerer rearrangement", "rsmi": "[C:2]([H:6])([H:7])([CH3:9])[S:10](=[O:11])[CH3:12].[H:1][O:4][C:8]([CH3:3])=[O:5]>>[C:2]([O:4][C:8]([CH3:3])=[O:5])([H:7])([CH3:9])[S:10][CH3:12].[H:1][O:11][H:6]", "epd": [["Sigma-/LP+", [10, 11], [10]], ["Pi-/LP+", [10, 11], [11]], ["LP-/Sigma+", [11], [1, 11]], ["Sigma-/LP+", [1, 4], [4]], ["LP-/Sigma+", [4], [2, 4]], ["Sigma-/Sigma+", [2, 6], [6, 11]]]}
{"reaction_name": "Aza-Prins cyclization", "rsmi": "[H+:10].[CH2:1]([N:5]([CH3:3])[H:8])[CH2:11][CH:6]=[CH2:9].[O:2]=[CH:7][CH3:4]>>[N:5]1([CH3:3])[CH2:1][CH2:11][CH:6]([CH2+:9])[CH:7]([CH3:4])1.[O:2]([H:8])[H:10]", "epd": [["Pi-/Sigma+", [6, 9], [6, 7]], ["Sigma-/LP+", [2, 7], [2]], ["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [5, 8], [5]], ["LP-/Sigma+", [5], [5, 7]], ["Pi-/LP+", [2, 7], [2]], ["LP-/Sigma+", [2], [2, 10]]]}
{"reaction_name": "Electrophilic chlorination", "rsmi": "[C:1]1([Cl:12])=[C:22]([Cl:8])[C:23]([Cl:19])=[C:7]([Cl:16])[C:21]([Cl:4])([Cl:5])[C:9]1=[O:13].[CH3:2][C:6](=[C:3]=[N-:10])[c:11]1[cH:14][cH:17][cH:20][cH:18][cH:15]1>>[CH3:2][C:6]([C:3]#[N:10])([Cl:4])[c:11]1[cH:14][cH:17][cH:20][cH:18][cH:15]1.[c:1]1([Cl:12])[c:9]([O-:13])[c:21]([Cl:5])[c:7]([Cl:16])[c:23]([Cl:19])[c:22]1[Cl:8]", "epd": [["LP-/Pi+", [10], [3, 10]], ["Pi-/Sigma+", [6, 3], [6, 4]], ["Sigma-/Pi+", [4, 21], [21, 9]], ["Pi-/LP+", [9, 13], [13]]]}
{"reaction_name": "Bromonium-ion opening", "rsmi": "[Br+:2]1[CH2:3][CH2:4]1.[OH-:1]>>[OH:1][CH2:3][CH2:4][Br:2]", "epd": [["LP-/Sigma+", [1], [1, 3]], ["Sigma-/LP+", [2, 3], [2]]]}
{"reaction_name": "Cbz chloroformate carbamate formation", "rsmi": "[NH:6]([CH3:10])[H:14].[cH:1]1[cH:4][cH:9][cH:5][cH:2][c:12]1[CH2:8][O:13][C:3]([Cl:7])=[O:11]>>[Cl:7][H:14].[cH:1]1[cH:4][cH:9][cH:5][cH:2][c:12]1[CH2:8][O:13][C:3]([NH:6][CH3:10])=[O:11]", "epd": [["LP-/Sigma+", [6], [3, 6]], ["Pi-/LP+", [3, 11], [11]], ["LP-/Pi+", [11], [3, 11]], ["Sigma-/LP+", [3, 7], [7]], ["LP-/Sigma+", [7], [7, 14]], ["Sigma-/LP+", [6, 14], [6]]]}
